* C:\Users\leank\OneDrive - tresdimensiones\Documentos\EAGLE\projects\VDA\Design\VGA.asc
XU1 N004 N007 N003 N002 N005 +5V -5V N005 N006 HALF13700
V1 +5V 0 15
V2 0 -5V 15
R1 N005 0 30k
R2 N006 -5V 10k
V3 N009 0 SINE(0 1 5 0 0 0 500)
R5 N003 0 500
R6 N004 +5V 13k
V4 N001 0 PULSE(0 10 0 10 0 0 10)
R7 N002 N001 30k
R8 0 N007 500
C1 N008 N006 100µ
R4 N008 0 100k
R9 N007 N009 10k
.tran 20
.lib lm13700.sub
.backanno
.end
